* G:\SwCADIII\lib\sym\EXTRA\UC\UC384xA\LT3844A.asc

.SUBCKT LT3844A1 Err Vfb Ifb Osc COM Out Vcc Ref

I1 Vcc COM TBL(0 0 1 .2m)
D1 COM Vcc 34V
A1 Vcc COM COM COM COM COM N006 COM SCHMITT Vt=13 Vh=3.0 Vhigh=2.5 Rout=1k
R1 Vcc N006 8e6
C1 N006 COM 1p
S1 N009 Vcc N006 2v5 ref
D2 N009 Vcc V65
C2 2v5 COM 1p Rpar=240
R2 2v5 N009 240
R3 Ref N009 280m
C3 COM Ref 10p
C4 Osc COM 5p
A2 Osc COM COM COM COM COM N005 COM ExtOsc Vtcap=1.75 Vhcap=.85 Icharge=1p Idischarge=8.3m duty=.96 tripdt=5n nobreak
A3 N005 COM COM COM COM COM N008 COM Counter cycles=2
C5 Vfb COM 1p
R4 N004 Vfb 165k
C6 Err N004 1p Rpar=10G
A4 N004 2v5 COM COM COM COM Err COM OTA Vhigh=6 Vlow=0.7 Isrc=1m Isink=-6m Rclamp=1 g=5 Rout=25k Cout=5p eaclk=A2 powerup=!V(fault,Com)
C7 Ifb COM 5p
R5 N003 Ifb 75k
C8 N003 COM 1p
D3 Err N007 2R
D4 N007 COM 1R
C9 N007 COM 1p Rpar=1e6
A5 N008 COM COM N003 N007 COM N010 COM SERflop Vt=1u nobreak trise=200n tripdt=5n
A6 Ref COM COM COM COM fault COM COM SCHMITT Vt=4.8 Vh=.1 trise=200n
S2 Out Vcc N010 fault Ho
S3 Com Out fault N010 Lo
C10 Vcc COM 20p
C11 Out Com 20p
.model D D
*.lib G:\SwCADIII\lib\cmp\standard.dio
.model 1R d(Vfwd=1 Ron=1)
.model 2R d(Vfwd=1.3 Ron=2e6)
.model 34V d(Ron=.5 Vfwd=.5 Vrev=34 Rrev=22)
.model ref sw(Vh=-11m Ilimit=100m)
.model Ho sw(Vt= .48 Vh=-.25 Ron=2 Roff=100k Vser=1.2)
.model Lo sw(Vt=-.52 Vh=-.25 Ron=6 Roff=300k)
.model V65 d(Vfwd=0.65)
* >> UC3845A <<\nLTspice A-Device Behavioral Model\nCopyright 2004 by analog@ieee.org
* NOTES:\nUC3842A: for A1 Vt=13  Vh=3.0 and bypass A3 (delete)\nUC3843A: for A1 Vt=8.2 Vh=0.3 and bypass A3 (delete)\nUC3844A: for A1 Vt=13  Vh=3.0; for A3 cycles=2\nUC3845A: for A1 Vt=8.2 Vh=0.3; for A3 cycles=2
*.backanno

.ENDS
